US05663053
4,5-Bis(2-chlorophenyl)-1-(7-ethoxycarbonylheptyl)-imidazole (0.4 g) was reacted with 2N sodium hydroxide in a method similar to Example 10. Work-up and chromatography on silica gel eluted with a dichloromethane:methanol gradient followed by recrystallisation from dichloro-methane and hexane gave 1-(7-carboxyheptyl)-4,5-bis-(2-chlorophenyI)imidazole (0.25 g, 67%) as a white solid, m.p. 145°-6°.

reactant | 4,5-Bis(2-chlorophenyl)-1-(7-ethoxycarbonylheptyl)-imidazole | 0.4 g | ClC1=C(C=CC=C1)C=1N=CN(C1C1=C(C=CC=C1)Cl)CCCCCCCC(=O)OCC | C25H28Cl2N2O2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
product | 1-(7-carboxyheptyl)-4,5-bis-(2-chlorophenyI)imidazole | 0.25 g, 67% | C(=O)(O)CCCCCCCN1C=NC(=C1C1=C(C=CC=C1)Cl)C1=C(C=CC=C1)Cl | C23H24Cl2N2O2
